US08541596B2
N-Butyl-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (399 mg; 3 mmol; 1 eq.), n-butanal (238 mg; 0.291 ml; 3.3 mmol; 1.1 eq.) and NaBH4 (228 mg; 6 mmol; 2 eq.) as described in method 3; Yield: 0.311 (54.9%); MS m/z: 190.4 [M+H]+; 1H-NMR (400 MHz, DMSO d6): δ 0.91 (t, 3H, 3J=7.5 Hz); 1.35-1.44 (m, 2H); 1.52-1.59 (m, 2H); 2.99 (t, 2H, 3J=7.1 Hz); 5.27 (br s, 1H); 6.53-6.55 (m, 2H); 7.25-7.27 (m, 1H); 7.84 (s, 1H); 11.83 (br s, 1H); HPLC (METHOD [A]): rt 7.51 min (95.9%)

reactant | benzimidazol-5-amine | 3 mmol, 399 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | n-butanal | 3.3 mmol, 0.291 ml, 238 mg, 1.1 eq. | C(CCC)=O | C4H8O
reactant | NaBH4 | 6 mmol, 228 mg, 2 eq. | [BH4-].[Na+]
product | N-Butyl-1H-benzo[d]imidazol-5-amine | C(CCC)NC1=CC2=C(NC=N2)C=C1 | C11H15N3
